US06362361B1
Methyl 2,2-di(tertiary-butylperoxy)-1-cyclopentanecarboxylate was prepared by the addition of 92.28% TBHP (tertiary butyl hydroperoxide) (36.62 g, 0.3750 mol) to 97% methyl 2-oxo-1-cyclopentanecarboxylate (14.65 g, 0.1000 mol) at room temperature in a three necked 250-mL round bottomed flask equipped with a thermometer and mechanical stirrer. The solution was then cooled via a dry ice-acetone bath to −5° C. and 78% sulfuric acid (15.09 g, 0.1200 mol) was added dropwise to the solution with temperature at −5° C. Upon completion of the addition of sulfuric acid, the solution was allowed to reach 5° C. where it was maintained by an ice-water bath for three hours with mechanical stirring. The reaction was transferred to a separatory funnel and the lower acidic aqueous layer separated and discarded. The organic layer was then washed with saturated NaCl solution until the aqueous washings had a pH of 4.0 to 4.5. The organic layer was then dried over MgSO4, filtered through a Buchner funnel and analyzed for purity by gas chromatography (88% by area): 1H NMR (300 MHz, CDCl3) δ 3.7 (s, 3H, CH3), 3.3-3.4 (m, 1H, cyclic H), 1.9-2.2 (m, 6H, cyclic H), 1.3 (s, 9H, CH3), 1.2 (s, 9H, CH3); 13C NMR (75 MHz, CDCl3) δ 172.4 (C═O). 116.9 (O—C—O, cyclic), 79.7 (CCH3)3), 79.4 (C(CH3)3), 51.1 (CH, cyclic), 49.1 (CH3—O), 32.9 (CH2, cyclic), 27.7 (CH2, cyclic), 26.2 (C(CH3)3, (2x)), 22.1 (CH2, cyclic); IR (neat) 1740, 1364, 1198, 878 cm−1.

reactant | TBHP | 0.3750 mol, 36.62 g | C(C)(C)(C)OO | C4H10O2
reactant | methyl 2-oxo-1-cyclopentanecarboxylate | 0.1000 mol, 14.65 g | O=C1C(CCC1)C(=O)OC | C7H10O3
reactant | sulfuric acid | 0.1200 mol, 15.09 g | S(O)(O)(=O)=O | H2O4S
product | Methyl 2,2-di(tertiary-butylperoxy)-1-cyclopentanecarboxylate | C(C)(C)(C)OOC1(C(CCC1)C(=O)OC)OOC(C)(C)C | C15H28O6
